US09085570B2
A solution of 4-(5-methyl-4-((4-(3-morpholinopropyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoic acid hydrochloride (1.5 g, 2.88 mmol, 1.00 equiv), EDCI (660 mg, 3.46 mmol, 1.20 equiv), HOBt (460 mg, 3.41 mmol, 1.18 equiv), triethylamine (1.16 g, 11.49 mmol, 3.98 equiv) and pyridin-3-ylmethanamine (380 mg, 3.52 mmol, 1.22 equiv) in N,N-dimethylformamide (40 mL) was stirred overnight at 25˜30° C. The resulting solution was diluted with 100 mL of water and extracted with 1×100 mL of ethyl acetate. The organic layer was washed with 3×50 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (550 mg) was purified by Prep-HPLC with the following conditions (1#-Pre-HPLC-005(Waters)): Column, Xbridge Prep C18, 5 um, 19*150 mm; mobile phase, WATER WITH 0.05% TFA and CH3CN (10% CH3CN up to 30% in 12 min, up to 100% in 1 min); Detector, uv 220/254 nm, to give 400 mg (20%) of 4-(5-methyl-4-((4-(3-morpholinopropyl) phenylsulfonyl)methyl)oxazol-2-yl)-N-(pyridin-3-ylmethyl)benzamide acid trifluoroacetic acid salt as a white solid. LC-MS: (ES, m/z): 575 [M+H]+, 288, 126. 1HNMR (400 MHz, DMSO-d6, ppm): δ 8.79 (m, 1H), 8.70 (d, J=4.8Hz, 1H), 8.31 (d, J=8.0Hz, 1H), 7.98 (d, J=8.8Hz, 2H), 7.92 (d, J=8.4Hz, 2H), 7.87-7.84 (m, 1H), 7.72 (d, J=8.0Hz, 2H), 7.48 (d, J=8.4Hz, 2H), 4.62 (s, 4H), 3.98-3.94 (m, 2H), 3.64 (s, 2H), 3.42-3.39 (m, 2H), 3.12-3.00 (m, 4H), 2.78-2.73 (m, 2H), 2.09 (s, 3H), 2.00-1.92 (m, 2H).

reactant | 4-(5-methyl-4-((4-(3-morpholinopropyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoic acid hydrochloride | 2.88 mmol, 1.5 g, 1.00 equiv | Cl.CC1=C(N=C(O1)C1=CC=C(C(=O)O)C=C1)CS(=O)(=O)C1=CC=C(C=C1)CCCN1CCOCC1
reactant | EDCI | 3.46 mmol, 660 mg, 1.20 equiv | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 3.41 mmol, 460 mg, 1.18 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 11.49 mmol, 1.16 g, 3.98 equiv | C(C)N(CC)CC | C6H15N
reactant | pyridin-3-ylmethanamine | 3.52 mmol, 380 mg, 1.22 equiv | N1=CC(=CC=C1)CN | C6H8N2
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | 4-(5-methyl-4-((4-(3-morpholinopropyl) phenylsulfonyl)methyl)oxazol-2-yl)-N-(pyridin-3-ylmethyl)benzamide | 400 mg, 20% | CC1=C(N=C(O1)C1=CC=C(C(=O)NCC=2C=NC=CC2)C=C1)CS(=O)(=O)C1=CC=C(C=C1)CCCN1CCOCC1 | C31H34N4O5S
